US04024186
Preparation of 1,3-bis(3,5-di-t-butyl-4-hydroxyphenyl)-2-nitropropane.
To a solution of 14.5 g (0.22 mole) of 85% potassium hydroxide in 300 ml of methanol was added in a stream of nitrogen to exclude air 13.4 g (0.22 mole) of nitromethane and 50.0 g (0.2 mole) of 2.6-di-t-butyl-4-methoxymethylphenol. The magenta solution was stirred for one hour at reflux, with exclusion of air. After cooling somewhat, the solution was neutralized with 13 ml of acetic acid and chilled. A thick paste formed which was filtered, washed and dried. The resulting tan powder (48.1 g, mp 152°-154° C) was recrystallized from 500 ml of heptane, after filtering insoluble matter (10.4 g). The yield of tan crystals was 32.3 g, mp 161°-165° C.

reactant | potassium hydroxide | 0.22 mole, 14.5 g | [OH-].[K+]
reactant | nitromethane | 0.22 mole, 13.4 g | [N+](=O)([O-])C | CH3NO2
reactant | 2.6-di-t-butyl-4-methoxymethylphenol | 0.2 mole, 50.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)COC)C(C)(C)C)O | C16H26O2
reactant | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
product | 1,3-bis(3,5-di-t-butyl-4-hydroxyphenyl)-2-nitropropane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)[N+](=O)[O-] | C31H47NO4
